US07202213B2
(E)-(S)-2-Ethoxy-3-[4-(5-phenyl-pent-2-en-4-ynyloxy)-phenyl]-propionic acid ethyl ester
To a solution of (E)-(5-chloro-pent-3-en-1-ynyl)-benzene (177 mg, 1.0 mmol) and (S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (238 mg, 1.0 mmol) in acetone (15 mL) was added potassium carbonate (700 mg, 5.0 mmol) and potassium iodide (17 mg, 0.1 mmol). The mixture was heated to reflux over night with stirring. Water was added and the product extracted with tert-butyl methyl ether (×3) The combined organic phases were dried (MgSO4), filtered and concentrated in vacuo, to give the title compound as a crude product.

reactant | (E)-(5-chloro-pent-3-en-1-ynyl)-benzene | 1.0 mmol, 177 mg | ClC/C=C/C#CC1=CC=CC=C1 | C11H9Cl
reactant | (S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 1.0 mmol, 238 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | potassium carbonate | 5.0 mmol, 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 mmol, 17 mg | [I-].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | Water | O | H2O
product | (E)-(S)-2-Ethoxy-3-[4-(5-phenyl-pent-2-en-4-ynyloxy)-phenyl]-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C\C#CC1=CC=CC=C1)OCC)=O | C24H26O4
